US07915270B2
1-(5-(2-Aminophenyl)oxazol-2-yl)-7-phenylheptan-1-one
2-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)aniline. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (188 mg, 0.284 mmol) and 2-iodoaniline following General Procedure A. Flash chromatography (5-20% EtOAc/hexanes) yielded the title compound as a clear oil (122 mg, 90%): 1H NMR (CDCl3, 400 MHz) δ 7.48 (dd, 1H, J=6.4, 9.3 Hz), 7.29-7.25 (m, 2H), 7.21 (s, 1H), 7.18-7.13 (m, 4H), 6.84-6.80 (m, 1H), 6.77-6.75 (m, 1H), 4.85 (t, 1H, J=6.0 Hz), 3.81 (br s, 2H), 2.60 (t, 2H, J=7.5 Hz), 1.97-1.89 (m, 2H), 1.68-1.59 (m, 2H), 1.40-1.29 (m, 6H), 0.91 (s, 9H), 0.11 (s, 3H), 0.00 (s, 3H); 13C NMR (CDCl3, 100 MHz) δ 169.1, 155.2, 148.5, 147.9, 134.8, 133.5, 133.4, 132.5, 130.7, 127.8, 123.8, 121.9, 118.4, 73.8, 41.6, 41.1, 36.5, 34.3, 34.3, 30.9, 30.3, 23.3, 0.2, 0.0.

reactant | 2-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)aniline | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=C(N)C=CC=C1 | C28H40N2O2Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.284 mmol, 188 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 2-iodoaniline | IC1=C(N)C=CC=C1 | C6H6IN
product | 1-(5-(2-Aminophenyl)oxazol-2-yl)-7-phenylheptan-1-one | 122 mg, 90% | NC1=C(C=CC=C1)C1=CN=C(O1)C(CCCCCCC1=CC=CC=C1)=O | C22H24N2O2
